data/mechanisms/records/IMS9-EQ9.26a.json
{"mechanism_id": "IMS9-EQ9.26a", "species": [{"species_id": "methylheptanone_molecular_ion", "mapped_smiles": "[CH3:1][C:2](=[O+:9])[CH2:3][CH2:4][CH:5]([1H:10])[CH:6]([CH3:7])[CH3:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetyl_cation_mz43", "mapped_smiles": "[CH3:1][C:2]#[O+:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "hexyl_radical", "mapped_smiles": "[CH2:3][CH2:4][CH:5]([1H:10])[CH:6]([CH3:7])[CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["methylheptanone_molecular_ion"]}, {"state_id": "state_products", "species_ids": ["acetyl_cation_mz43", "hexyl_radical"]}], "steps": [{"step_id": "step_alpha_acetyl", "from_state": "state_precursor", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [2, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "atom", "atom_maps": [3]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha_acetyl", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_acetyl", "support_type": "textbook_proposed", "locator": {"page": 249, "equation": "9.26", "figure": null, "panel": null, "section": "9.3 Aldehydes and ketones (top 'alpha' arrow)"}, "confidence": 0.75, "curator_note": "Substrate as drawn: a 2-alkanone molecular ion printed as C3H7-CH(H)-CH2-CH2-C(=O)-CH3 with the gamma hydrogen on C5 drawn EXPLICITLY and '+.' printed above the carbonyl oxygen. INSTANTIATION of the condensed 'C3H7' label (the page does not draw it out): it is taken as ISOPROPYL, making the compound 6-methyl-2-heptanone. That is not a guess -- the running text introducing this scheme rationalises 'the characteristic peaks in ... 6-methyl-2-heptanone (Figure 9.9)' and names 'a pair of acylium ions (m/z 113 and 43 in Figure 9.9) and a pair of alkyl ions (m/z 85 and 15)', which are exactly this equation's products. n-Propyl would give 2-octanone, an isomer with identical nominal masses at every step, so the drawing alone cannot distinguish them and the text is what settles it. LOCALIZATION (convention B): charge and odd electron are written on the oxygen where the page prints them, [C:2]=[O+:9]. Book draws 0 arc(s) on the molecular ion -- there is no fishhook anywhere on it; every arrow leaving it carries only a label. TOP channel: an arrow labelled 'alpha' rising to 'CH3CO+ / m/z 43'. Radical-site alpha cleavage of the C2-C3 bond with the charge retained on the ACETYL side. Book draws 0 arc(s), so all three moves are curator-supplied: the canonical triple <1> the oxygen odd electron into the forming C-O pi bond, <2> one electron of the breaking C2-C3 sigma bond into that same bond (raising C2-O9 from double to TRIPLE, the acylium the page writes as CH3CO+), <3> the other C2-C3 electron leaving with the hexyl radical. MS CONTEXT: the page prints no ionisation conditions, so 70 eV EI is the corpus house default, disclosed rather than read off the page. Figure 9.9 (printed p247) is the 6-methyl-2-heptanone spectrum and does carry abundances, but it is NOT this page and this scheme prints no percentage, so per convention F no relative_intensity is recorded; peaks are status 'proposed'."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 128.1196, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_43", "species_id": "acetyl_cation_mz43", "step_id": "step_alpha_acetyl", "observed_mz": 43.0178, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.7}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "manual_from_scan", "review_status": "unreviewed", "created_at": "2026-08-04T00:00:00Z", "modified_at": "2026-08-04T00:00:00Z"}}
